* This is the potentiometer
*      _____
*  1--|_____|--2
*        |
*        3
*
.SUBCKT pot 1 2 3
.param w=limit(wiper,1m,.999)
R0 1 3 {Rtot*(1-w)}
R1 3 2 {Rtot*(w)}
.ENDS
